US04859662
8-Fluoro-1,2,3,9-tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4H-carbazol-4-one
8-Fluoro-1,2,3,9-tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methylene]-4H-carbazol-4-one (1.5 g) was dissolved in ethanol (50 ml) and added to a suspension of 5% palladium on charcoal (200 mg) in ethanol (ca. 50 ml), and the resulting mixture was hydrogenated at room temperature and atmospheric pressure until hydrogen uptake had ceased. The mixture was filtered, and the filtrate was evaporated in vacuo to give the title compound (1.5 g), m.p. 189°-191° (decomp.), t.l.c. (System A 100:8:1), Rf 0.43.

reactant | 8-Fluoro-1,2,3,9-tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methylene]-4H-carbazol-4-one | 1.5 g | FC=1C=CC=C2C=3C(C(CCC3N(C12)C)=CC=1N=CNC1C)=O | C18H16FN3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | ethanol | ca. 50 ml | C(C)O | C2H6O
product | 8-Fluoro-1,2,3,9-tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4H-carbazol-4-one | 1.5 g | FC=1C=CC=C2C=3C(C(CCC3N(C12)C)CC=1N=CNC1C)=O | C18H18FN3O
